US06765008B1
C. 4-(1-Ethyl-propyl)-2,5,6-trimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]-pyrimidine
A mixture of N-[3-(2-ethyl-butyl )4,5-dimethyl-1-(2,4,6-trimethylphenyl)-1H-pyrrol-2-yl]-acetamide (100 mg, 0.27 mmol), ammonium chloride (290 mg, 5.42 mmol), and acetamide (1.635 g) was heated to reflux for 2 hours. The mixture was cooled, quenched with water and extracted with ethyl acetate. The organic layer was dried and concentrated to give 56 mg of the title compound as a dark oil. The oil was purified through silica gel column chromatography to give the title compound as a yellow oil. 1H-NMR (CDCl3) δ 0.85(t, 6H), 1.70-2.0(m, 4H), 1.83(s, 6H), 1.99(s, 3H), 2.36(s, 3H), 2.44(s, 3H), 2.61 (s, 3H), 3.26(m, 1H), 7.00(s, 2H) ppm.

reactant | N-[3-(2-ethyl-butyl )4,5-dimethyl-1-(2,4,6-trimethylphenyl)-1H-pyrrol-2-yl]-acetamide | 0.27 mmol, 100 mg | C(C)C(CC1=C(N(C(=C1C)C)C1=C(C=C(C=C1C)C)C)NC(C)=O)CC | C23H34N2O
reactant | ammonium chloride | 5.42 mmol, 290 mg | [Cl-].[NH4+]
reactant | acetamide | 1.635 g | C(C)(=O)N | C2H5NO
product | 4-(1-Ethyl-propyl)-2,5,6-trimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]-pyrimidine | 56 mg | C(C)C(CC)C=1C2=C(N=C(N1)C)N(C(=C2C)C)C2=C(C=C(C=C2C)C)C | C23H31N3
